US05071999
b) Ethyl N-allyl-N-(1,1-dimethoxyprop-2-yl)-carbamate
151 g (0.79 mol) of ethyl N-(1,1-dimethoxyprop 2-yl)-carbamate, 175 g of powdered potassium hydroxide and 2.8 g of triethylbenzylammonium chloride are initially introduced into 750 ml of toluene and 94 g (0.777 mol) of allyl bromide are added dropwise at room temperature. After stirring overnight at room temperature, a further 10 g (82.6 mmol) of allyl bromide are added dropwise and the mixture is stirred for one day at room temperature. Water is added until all salts have gone into solution, and the aqueous phase is separated off and extracted twice with 150 ml of toluene each time. The extracts are dried over K2CO3 and concentrated, and the residue is distilled.

reactant | ethyl N-(1,1-dimethoxyprop 2-yl)-carbamate | 0.79 mol, 151 g | COC(C(C)NC(OCC)=O)OC | C8H17NO4
reactant | potassium hydroxide | 175 g | [OH-].[K+]
reactant | toluene | 750 ml | C1(=CC=CC=C1)C | C7H8
reactant | allyl bromide | 0.777 mol, 94 g | C(C=C)Br | C3H5Br
reactant | allyl bromide | 82.6 mmol, 10 g | C(C=C)Br | C3H5Br
catalyst | triethylbenzylammonium chloride | 2.8 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | Water | O | H2O
product | Ethyl N-allyl-N-(1,1-dimethoxyprop-2-yl)-carbamate | C(C=C)N(C(OCC)=O)C(C(OC)OC)C | C11H21NO4
